US06984653B2
Production of 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole
Using (E)-3-(4-chloro-3-fluorophenyl)-2-propenamide (8.67 g) and 1,3-dichloroacetone (11.0 g), the same reaction as Reference Example 1-(ii) was carried out to yield the titled compound (4.95 g) as colorless flaky crystals.

reactant | (E)-3-(4-chloro-3-fluorophenyl)-2-propenamide | 8.67 g | ClC1=C(C=C(C=C1)/C=C/C(=O)N)F | C9H7ClFNO
reactant | 1,3-dichloroacetone | 11.0 g | ClCC(=O)CCl | C3H4Cl2O
product | 2-[(E)-2-(4-chloro-3-fluorophenyl)ethenyl]-4-(chloromethyl)-1,3-oxazole | 4.95 g | ClC1=C(C=C(C=C1)/C=C/C=1OC=C(N1)CCl)F | C12H8Cl2FNO
